US04616086
3-[1-(4-Ethoxycarbonylphenethyl)-piperazin-4-yl]-propanesulphonic acid
To a solution of 10.25 g. (39 mmole) ethyl 4-[2-(piperazin-1-yl)-ethyl]-benzoate and 70 ml. anhydrous ethanol, there are added 4.76 g. (39 mmole) 1,3-propanesultone, followed by stirring at 20° C. After standing overnight, the ethanol is stripped off and the residue is treated with diethyl ether and ligroin. After suction filtration, it is recrystallised from ethanol to give 11.2 g. (75% of theory) of the desired compound; m.p. 235°-236° C.

reactant | ethyl 4-[2-(piperazin-1-yl)-ethyl]-benzoate | 39 mmole | N1(CCNCC1)CCC1=CC=C(C(=O)OCC)C=C1 | C15H22N2O2
reactant | ethanol | C(C)O | C2H6O
reactant | 1,3-propanesultone | 39 mmole | C1COS(=O)(=O)C1 | C3H6O3S
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-[1-(4-Ethoxycarbonylphenethyl)-piperazin-4-yl]-propanesulphonic acid | C(C)OC(=O)C1=CC=C(CCN2CCN(CC2)CCCS(=O)(=O)O)C=C1 | C18H28N2O5S
